US06683090B1
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(E-2,3-diphenylpropenamide)
Prepared as free base by a method analogous to that described in Example 1 from (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and E-2,3-diphenylpropenoic acid; MS (ES+) 333 (MH+).

reactant | (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | E-2,3-diphenylpropenoic acid | C1(=CC=CC=C1)/C(/C(=O)O)=C\C1=CC=CC=C1 | C15H12O2
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(E-2,3-diphenylpropenamide) | N12C[C@@H](C(CC1)CC2)NC(\C(=C\C2=CC=CC=C2)\C2=CC=CC=C2)=O | C22H24N2O
